US04420327
Production of N-[4-bromo-3-(1-methyl-2-oxopropoxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 4.0 g. of N-(4-bromo-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide, 2.0 g. of 3-chloro-2-butanone, 2.1 g. of potassium carbonate, 1.0 g. of potassium iodide and 30 ml. of acetone was refluxed with stirring for 3 hours. The precipitate was separated by a filtration and the filtrate was concentrated under a reduced pressure and the residue was purified by a chromatography on a column of silica gel (developing solvent: ethyl acetate:n-hexane of 2:3) to obtain 4.2 g. of Compound No. 24 shown in Table 1.

reactant | N-(4-bromo-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)O | C14H12BrNO3
reactant | 3-chloro-2-butanone | ClC(C(C)=O)C | C4H7ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-[4-bromo-3-(1-methyl-2-oxopropoxy)phenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(C(C)=O)C | C18H18BrNO4
